Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Transfer for evaluation of Lower extremity weakness and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ year old woman with PMH of remote "pinched 
nerve in neck", OA and obesity who presented to the ED as an OSH 
transfer for R leg numbness and incontinence. Last ___, she 
had sudden onset of weakness in her L leg while walking up the 
stairs. Since that time, she had worsening R leg numbness and L 
leg weakness, as well as difficulty ambulating. She also had 
pain on the R from hip to foot; she describes this pain as her 
usual sciatica pain. She was still able to walk short distances 
with her walker (she has been using her walker for ___ years). She 
denies hx of trauma, malignancy, or IV drug use. She states that 
her urinary incontinence is chronic. She also has residual 
chronic RUE weakness "from my pinched nerve" and patient notes 
she has dropped many plates. Per neurosurgery notes, the MRI at 
the OSH was not able to accommodate patient due to her weight, 
and so she was transferred to ___.  
 Upon arrival in the ED, a code cord was called due to c/f cauda 
equine. However, the exam showed no saddle anesthesia. Rectal 
tone was normal. Strength was ___ in bilateral hip flexors and 
___ in extensors. Sensation intact. Babinski showed upgoing toes 
bilaterally.  
 An MRI was attempted; however, the patient could not lie flat 
due to pain, despite morphine. She also had desats when lying 
flat. She was then given fentanyl, dilaudid, and consent was 
obtained for intubation. During intubation, one of the maxillary 
incisors broke off. Per abdominal xray, the tooth appears to be 
in the stomach. Neurosurgery was consulted for patient's severe 
C/T/L spine degenerative disease; they determined that there was 
no urgent need for decompression. Neurology was then consulted 
to evaluate for ?transverse myelitis. They determined that her 
MRI spine showed no evidence of transverse myelitis and her hx 
did not raise concern for transverse myelitis. They recommended 
f/u in spine clinic for spondylosis and stenosis.  
 Labs were notable for WBC 11.4. UA was significant for +leuk 
and +bacteria. She was given ciprofloxacin. She was then 
admitted to medicine for "IV antibiotics for UTI and pain 
control as well as monitoring for spine symptoms".  
 Upon arrival to the floor, the patient was tired from being in 
the ED and the medications she received prior to intubation. 
However, she was arousable and able to answer all questions. 
Neuro exam was limited by her fatigue. However, she appeared 
comfortable. She had a dry cough that she states started after 
she arrived at the ED. She denies fevers. Denies dysuria.  
 
Past Medical History:
Morbid Obesity
OA  
Sciatica
s/p hysterectomy  
 
Social History:
___
Family History:
NC to current admission
 
Physical Exam:
ADMISSION PHYSICAL
==================
VS: ___ 1800 Temp: 99.1 PO BP: 134/68 R Lying HR: 84 RR: 18
O2 sat: 94% O2 delivery: RA Dyspnea: 0 RASS: -1 Pain Score: ___ 

General: elderly woman, sleepy but arousable to voice, lying in
bed, NAD
HEENT: ATNC, missing front teeth, poor dentition, hirsute
CV: no murmurs appreciated; however, exam limited by body 
habitus
Resp: no wheezing or rhonchi appreciated; however, exam limited
by poor inspiratory effort and body habitus
Abd: large abdomen, +BS, nontender
GU: Foley catheter draining dark yellow urine
Extr: trace edema in BLEs
Neuro: alert and able to answer all questions appropriately.
Neuro exam limited by patient's sleepiness from being in the ED
all day and the medications she received prior to intubation.
Able to move all extremities on command.

DISCHARGE PHYSICAL
==================
V/S:  ___ ___ Temp: 97.8 PO BP: 121/72 HR: 75 RR: 20 O2 
sat: 97%
O2 delivery: Ra 
General: elderly woman, lying in bed, NAD, malodorous
HEENT: MMM, missing teeth, poor dentition, hirsute
CV: no murmurs appreciated; however, exam limited by body 
habitus
Resp: no wheezing or rhonchi appreciated; however, exam limited
by poor inspiratory effort and body habitus
Abd: obese abdomen, +BS, nontender
GU: no foley
Extr: trace ___ edema bilaterally
Neuro: weak at hip flexors, otherwise strength symmetric in ___
 
Pertinent Results:
ADMISSION LABS
==============

___ 01:37AM BLOOD WBC-11.4* RBC-4.24 Hgb-12.9 Hct-40.3 
MCV-95 MCH-30.4 MCHC-32.0 RDW-14.4 RDWSD-49.7* Plt ___
___ 01:37AM BLOOD Neuts-60.8 ___ Monos-9.8 Eos-6.2 
Baso-0.8 Im ___ AbsNeut-6.92* AbsLymp-2.51 AbsMono-1.12* 
AbsEos-0.71* AbsBaso-0.09*
___ 01:37AM BLOOD Glucose-138* UreaN-22* Creat-1.1 Na-142 
K-4.6 Cl-101 HCO3-26 AnGap-15
___ 09:00AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 09:00AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG*
___ 09:00AM URINE RBC-3* WBC-96* Bacteri-MOD* Yeast-NONE 
Epi-<1
___ 09:00AM URINE CastHy-6*
___ 09:00AM URINE Mucous-RARE*

MICRO
=====
OSH Urine Culture (___) E coli > 100,000
Urine Culture ___: 
              **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING
=======
MRI C/T/L Spine ___. Transitional anatomy with sacralization of L5 as described.
2. Severe spinal canal narrowing at L3-L4 with cauda equina 
compression, and moderate to severe spinal canal narrowing at 
L2-L3.  No evidence of cord signal abnormality or abnormal 
enhancement.
3. Multilevel mild spinal canal stenosis in the cervical, 
thoracic and lumbar spine as described.
4. Multilevel mild to moderate neural foraminal narrowing 
bilaterally as
described.
5. Small bilateral pleural effusions with patchy opacification 
in the left
lower lobe.  If clinically indicated, consider dedicated chest 
imaging for
further evaluation.
6. Paranasal sinus disease, as described.

CXR ___ mm opacity adjacent to the enteric tube, which may represent 
the ingested
tooth within the stomach.  Follow-up abdominal radiographs of 
this region may be helpful. Otherwise, markedly limited 
evaluation of the lungs.  Repeat radiograph with better 
inspiration is recommended.
Endotracheal tube tip approximately 1.3 cm from the carina.  
Consider retracting for optimal positioning.

X-Ray Abd ___ mm radiopaque density overlying the enteric tube at the 
superior edge of the radiograph, possibly representing the 
ingested tooth.
Please note that the evaluation of the hip joints are limited on 
the current radiograph and would require dedicated views if 
clinically indicated.

X-Ray C-spine ___
No radiopaque foreign body.  The stomach is excluded from the 
view.
Consider retracting the endotracheal tube for optimal 
positioning.

DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-8.5 RBC-3.71* Hgb-11.2 Hct-35.6 
MCV-96 MCH-30.2 MCHC-31.5* RDW-14.3 RDWSD-50.4* Plt ___
___ 06:55AM BLOOD Glucose-112* UreaN-20 Creat-0.8 Na-144 
K-4.2 Cl-106 HCO3-25 AnGap-13
___ 06:55AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.___ female with PMH sciatica and severe OA who presented 
as a transfer from ___ for LLE weakness, 
RLE shooting pain likely ___ sciatica from worsening 
degenerative disease with concerns for cord compression/cauda 
equina syndrome requiring an MRI.

ACTIVE ISSUES:
#Lumbar spondylosis
#OA
A code cord was called in the ED for concern of spinal cord 
compression upon arrival.  Patient required intubation and 
sedation prior to MRI as she could not tolerate it.  An incisor 
was broken during the intubation process and was later localized 
after multiple x-rays to be in stomach.  Her MRI spine was 
notable for severe spinal canal narrowing in the lumbar spine. 
Neurosurgery and neurology evaluated the patient in the ED and 
determined that there was no need for urgent surgery.  Pain was 
managed with scheduled Tylenol and NSAIDs as needed as well as 
warm packs.  Her neurologic exam was trended closely for signs 
of worsening symptoms.  Neurosurgery recommended outpatient 
follow-up in spine clinic.  Neurology was also closely 
following.  The patient was evaluated by physical therapy and 
they recommended discharge to a rehab facility.

#Asymptomatic Bacteruria
Patient has a history of chronic urinary incontinence but no 
symptoms of dysuria. She received 1x cipro in the ED. Her UA 
positive for bacteria and leukocytes; however, in the absence of 
symptoms, does not require abx treatment. Culture from ___ 
___ demonstrated E coli > 100,000 but patient the remained 
asymptomatic and hence was not treated.  She was monitored 
closely for signs of symptom development.

Transitional Issues
===================
#Code status: full, presumed
#Emergency contact: ___ - ___ (son)

[ ] MEDICATION CHANGES:
- Changed:  Pt unsure how much naproxen she was taking at home.  
She can continue to take 500mg PO q8h.  
- Added:  Acetaminophen, docusate, polyethylene glycol, senna.

[ ] FOLLOW UP APPOINTMENTS:
- Will require outpatient spine clinic follow-up.  

[ ] ASYMPTOMATIC BACTERIURIA:  
- Pt had UCx growing > 100,000 cfu pan-sensitive E. coli.  She 
was not complaining of urinary symptoms at the time of her 
discharge.  As such, she was not treated.
- Please review "PERTINENT MICRO DATA" in the discharge summary 
for susceptibilities about the patient's urine culture, should 
she develop any urinary Sx.

[ ] TOOTH IN STOMACH:
- Pt had a tooth knocked into her stomach during intubation in 
the ED.  It was visualized via XR in the stomach.
- Foreign bodies that enter the stomach generally pass within 
___ days.  Please monitor for abdominal pain or blood in the 
stools. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen Dose is Unknown  PO PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not take more than 4 grams in a 24 hour period.  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Senna 8.6 mg PO BID  
5.  Naproxen 500 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=================
Spinal spondylosis
Osteoarthritis
Lower extremity pain
Asymptomatic bacteriuria

Secondary Diagnoses
===================
Morbid obesity
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You were transferred to ___ because because you needed 
a special MRI machine to evaluate your spinal cord for signs of 
compression

What happened while I was admitted to the hospital?
-An MRI was done in the ED that showed that there was no 
compression of your spinal cord but did show that you have 
narrowing and arthritic changes
-Your lab numbers were closely monitored and you were continued 
on your home medications
-Your pain was better controlled and you were evaluated by 
physical therapy and determined to need rehab after discharge

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-Keep all of your appointments as scheduled 

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___